US09340538B2
Step B: 2-(4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxamido)acetic acid
A mixture of ethyl 4-(2-bromo-4-fluorophenyl)-6-((3-((2-ethoxy-2-oxoethyl)carbamoyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.2 g, 0.31 mmol) and sodium hydroxide (0.13 g, 3.1 mmol) in ethanol (6 mL) and water (1 mL) was stirred at 25° C. for 20 minutes. The reaction solution was adjusted to pH 6-7 with con. HCl, and concentrated in vacuo. The residue was purified by a silica gel column chromatography (DCM/MeOH (V/V)=25/1) to give the title compound as a yellow solid (0.14 g, 74%). The compound was characterized by the following spectroscopic data:

reactant | ethyl 4-(2-bromo-4-fluorophenyl)-6-((3-((2-ethoxy-2-oxoethyl)carbamoyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.31 mmol, 0.2 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CN1C(COCC1)C(NCC(=O)OCC)=O)C=1SC=CN1 | C26H29BrFN5O6S
reactant | sodium hydroxide | 3.1 mmol, 0.13 g | [OH-].[Na+]
solvent | ethanol | 6 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
product | 2-(4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxamido)acetic acid | 0.14 g, 74% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1C(COCC1)C(=O)NCC(=O)O)C(=O)OCC | C24H25BrFN5O6S
